### PR TITLE
feat: add_left/right_inj for measures

### PR DESCRIPTION
**Pull request by RemyDegenne**
`μ + ν₁ = μ + ν₂ ↔ ν₁ = ν₂`, and similarly on the right. This is not true in general for measures, but is true when `μ` is mutually singular with the two other measures or when `μ` is finite.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Measure/MeasureSpace.lean [hunk 1]
```diff
@@ -2971,6 +2971,18 @@ theorem Measure.le_of_add_le_add_left [IsFiniteMeasure μ] (A2 : μ + ν₁ ≤
   fun S B1 => ENNReal.le_of_add_le_add_left (MeasureTheory.measure_ne_top μ S) (A2 S B1)
 #align measure_theory.measure.le_of_add_le_add_left MeasureTheory.Measure.le_of_add_le_add_left
 
+lemma Measure.add_left_cancel (μ ν₁ ν₂ : Measure α) [IsFiniteMeasure μ] :
+    μ + ν₁ = μ + ν₂ ↔ ν₁ = ν₂ := by
+  refine ⟨fun h ↦ ?_, fun h ↦ by rw [h]⟩
+  ext s -
+  rw [← ENNReal.add_right_inj (measure_ne_top μ s), ← Pi.add_apply, ← OuterMeasure.coe_add,
+    ← add_toOuterMeasure, h, add_toOuterMeasure, OuterMeasure.coe_add, Pi.add_apply]
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/Measure/MeasureSpace.lean:2979]: Can you make this an `IsRightCancelAdd` instance instead? (and would you mind reviewing #7582 which adds more of the same instances?)

Comment (eric-wieser) [reply Mathlib/MeasureTheory/Measure/MeasureSpace.lean:2979]: nevermind, that obviously doesn't work because `IsFiniteMeasure` is on one of the assumptions

File: Mathlib/MeasureTheory/Measure/MeasureSpace.lean [hunk 2]
```diff
@@ -2971,6 +2971,18 @@ theorem Measure.le_of_add_le_add_left [IsFiniteMeasure μ] (A2 : μ + ν₁ ≤
...
+
+lemma Measure.add_right_cancel (μ ν₁ ν₂ : Measure α) [IsFiniteMeasure μ] :
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/Measure/MeasureSpace.lean:2981]: I think this should be `add_right_inj`, the `cancel` lemma is the implication. We probably don't need both.

Comment (RemyDegenne) [reply Mathlib/MeasureTheory/Measure/MeasureSpace.lean:2981]: Indeed the regular `add_right_cancel` is an implication. It looks like the iff lemmas with the sum in that order are [add_right_cancel_iff](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Group/Defs.html#add_right_cancel_iff), and [add_left_inj](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Group/Defs.html#add_left_inj), which are apparently the same thing? I'll call this one similarly.

**Comment by fpvandoorn** [comment]
The `IsFiniteMeasure` conditions can be weakened to `SigmaFinite` measures. I did that in #7727.

The length of the proofs in the `MutuallySingular` file suggests that basic API is missing. For example, if `(h₁ : μ ⟂ₘ ν₁) (h₂ : μ ⟂ₘ ν₂)` then you can choose a witnessing set `s` that is the same for each of the two conditions, right? And then apply `Measure.ext_iff_of_sUnion_eq_univ` to `{s, sᶜ}` or something.

**Comment by digama0** [comment]
Note: I have pushed an update to the lean toolchain because this PR was on a [buggy version](https://leanprover.zulipchat.com/#narrow/stream/113488-general/topic/Potential.20data.20loss.20from.20.60lake.20clean.60.20with.204.2E2.2E0-rc2.2F3/near/397875701) of the toolchain. **WARNING**: checking out old commits of this PR using v4.2.0-rc2 or v4.2.0-rc3 can cause `lake clean` to delete your mathlib folder! If you need to do so, make sure to delete `lakefile.olean` manually before running any `lake` commands.
